US04808741
A mixture of 35 g of Nα -(1-S-methoxycarbonyl-3-phenylpropyl)-Nε -(benzyloxycarbonyl)-L-lysine, 12.66 g of L-proline methyl ester hydrochloride, 7.75 g of triethylamine and 350 mL of dichloromethane is cooled to -5° C. and then a solution of N,N-dicyclohexylcarbodiimide in 100 mL of dichloromethane is added over a one hour period. The resulting mixture is stirred at -5° C. for 24 hours, filtered, washed once with 100 mL of water and then with 50 mL of saturated sodium carbonate. The organic phase is separated, dried with anhydrous sodium sulfate, filtered and concentrated in vacuo to yield 44.5 g of N-[Nα -(1-S-methoxycarbonyl-3-phenylpropyl)-Nε -(benzyloxycarbonyl)-L-lysinyl)]-L-proline, methyl ester as a colourless oil.

reactant | L-proline methyl ester hydrochloride | 12.66 g | Cl.COC([C@H]1NCCC1)=O
reactant | triethylamine | 7.75 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
product | L-proline, methyl ester | N1[C@H](C(=O)OC)CCC1 | C6H11NO2
